US04762551
2-(2-Chloro-4-methanesulfonylbenzoyl)-cyclohexane-1,3-dione (9.8 g, 30 millimole) was dissolved in 100 ml methylene chloride and stirred at room temperature. To this solution was added oxalyl chloride (5.7 g, 45 mmol) followed by dimethylformamide (0.5 ml) in portions small enough to control effervescence. The resulting solution was stirred for 4 hours and then poured into water and extracted with methylene chloride. The organic layer was washed again with water, saturated K2CO3 solution and then dried with MgSO4 and the solvent evaporated to yield 3-chloro-2-(2chloro-4-methanesulfonylbenzoyl)cyclohex-2-enone (7.3 g, 70%) as an oil which was used without further purification.

reactant | 2-(2-Chloro-4-methanesulfonylbenzoyl)-cyclohexane-1,3-dione | 30 millimole, 9.8 g | ClC1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1)S(=O)(=O)C | C14H13ClO5S
reactant | oxalyl chloride | 45 mmol, 5.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-2-(2chloro-4-methanesulfonylbenzoyl)cyclohex-2-enone | 7.3 g, 70% | ClC1=C(C(CCC1)=O)C(C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C14H12Cl2O4S
